US06172085B2
4-Nitroaniline (0.14 g) was dissolved in 2N-hydrochloric acid (3 mL) under heating and the solution was ice-cooled. To this solution was added a solution of sodium nitrite (72 mg) in water (0.5 mL) dropwise, and the mixture was stirred for 15 minutes. The aqueous solution of 4-nitrobenzenediazonium chloride thus obtained was added to a solution of (S)-1-[(2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2yl)methyl]-N-(diphenylmethyl)-4-piperidinamine (0.43 g) in acetic acid (3 mL) under cooling and the mixture was stirred at room temperature for 12 hours. This reaction mixture was poured into saturated aqueous sodium carbonate solution and extracted with ethyl acetate. The extract was washed with water and saturated aqueous sodium chloride solution, dried over MgSO4, and concentrated under reduced pressure. To the (S)-1-[[2,3-dihydro-2,4,6,7-tetramethyl-5-(4-nitrophenyl-azo)benzofuran-2-yl]methyl]-N-(diphenylmethyl)-4-piperidinamine thus obtained were added ethanol (30 mL) and Raney nickel (Kawaken Fine Chemical NDHT-90) (0.6 g) and the mixture was stirred in a hydrogen atmosphere at 5 atm. and room temperature for 1 hour. This reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to provide 0.32 g of the title compound. Yield 71%.

reactant | 4-Nitroaniline | 0.14 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | sodium nitrite | 72 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 3 mL | Cl | ClH
solvent | water | 0.5 mL | O | H2O
product | 4-nitrobenzenediazonium chloride | [Cl-].[N+](=O)([O-])C1=CC=C(C=C1)[N+]#N | InChI=1S/C6H4N3O2.ClH/c7-8-5-1-3-6(4-2-5)9(10)11;/h1-4H;1H/q+1;/p-1
